US06114361
Step C: (3S,5R)-3-(4-Benzyloxyphenyl)-5-hydroxymethyl-2-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester
A solution of (3S,5R)-3-(4-benzyloxyphenyl)-5-(tert-butyldimethylsilanyloxymethyl)-2-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester (2.0 g, 3.91 mmol) in tetrahydrofuran (45 mL) was cooled in an ice bath. Aqueous 0.5M HCl solution (7.8 mL, 3.9 mmol) was added and the resulting mixture was allowed to warm to room temperature while stirring overnight. After a total reaction time of 24 hours, saturated aqueous NaHCO3 solution was added. The mixture was extracted twice with diethyl ether and the combined organic phases were washed with brine, dried over MgSO4 and concentrated to an oil. The title compound, a colorless oil (1.02 g, 65%), was isolated by flash chromatography on silica gel eluting with 50% ethyl acetate in hexane.

reactant | (3S,5R)-3-(4-benzyloxyphenyl)-5-(tert-butyldimethylsilanyloxymethyl)-2-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | 3.91 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1C([C@@H](C[C@@H]1CO[Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C29H41NO5Si
reactant | HCl | 3.9 mmol, 0.5M, 7.8 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
product | (3S,5R)-3-(4-Benzyloxyphenyl)-5-hydroxymethyl-2-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C([C@@H](C[C@@H]1CO)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C23H27NO5
